US05703187
Dilithium ((tetramethylcyclopentadienyl)-dimethylsilyl) (4-fluorophenyl)amide
((Tetramethylcyclopentadienyl)dimethylsilyl)-(4-fluorophenyl) amine in diethyl ether solvent and butyl lithium 2.5M in hexane solvent were combined in equivalent amounts. A white precipitate formed. Pentane was added to the slurry. The precipitate was filtered, washed with pentane and dried. 1H NMR (THF-d8) δ 7.28 (m, 2.0), 6.77 (m, 2), 3.27 (s, 2.7), 2.05 (s, 5.2), 2.01 (s, 5.2), 0.44 (s, 4.6).

reactant | ((Tetramethylcyclopentadienyl)dimethylsilyl)-(4-fluorophenyl) amine | CC=1C(=C(C(C1)(C)[Si](C)(C)NC1=CC=C(C=C1)F)C)C | C17H24FNSi
reactant | Pentane | CCCCC | C5H12
reactant | butyl lithium | 2.5M | C(CCC)[Li]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | Dilithium ((tetramethylcyclopentadienyl)-dimethylsilyl) (4-fluorophenyl)amide | CC=1C(=C(C(C1)(C)[Si](C)(C)[N-]C1=CC=C(C=C1)F)C)C.[Li+].[Li+].CC=1C(=C(C(C1)(C)[Si](C)(C)[N-]C1=CC=C(C=C1)F)C)C | InChI=1S/2C17H23FNSi.2Li/c2*1-12-11-17(4,14(3)13(12)2)20(5,6)19-16-9-7-15(18)8-10-16;;/h2*7-11H,1-6H3;;/q2*-1;2*+1
